US07229999B2
cis-5-(4-Chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 1-methyl-1H-1,2,4-triazole-5-methanol, (4-chloro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol as starting materials to yield racemic cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-nicotinamide, MS (ISP) 456.3 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 1-methyl-1H-1,2,4-triazole-5-methanol | CN1N=CN=C1CO | C4H7N3O
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
product | racemic cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@H]2[C@H](CCCC2)O)C1)OCC=1N(N=CN1)C | C23H26ClN5O3
